* tb_vco_sweep -- ring VCO tuning curve
*
* 20 ps steps over 600 ns: fine enough for a ~1 GHz edge (50 points/period) and long
* enough to capture four periods at the bottom of the tuning range. A 2 ps step was the
* first attempt and simply wasted an order of magnitude of runtime., WITH the output tap and matched stage loading.
*
* The published 21-957 MHz range was characterised on a bare unloaded ring, which is not a
* configuration that can be shipped: something has to tap the output. This sweep uses the
* real cell, so the numbers can be used for loop design.
*
* The resistor model's body terminal is the global substrate node `sub!`. Unless it is
* declared global AND tied, it floats, the matrix is singular, and ngspice quietly
* abandons its DC strategies and falls back to a transient operating point -- returning
* numbers that look plausible and are not solutions.
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.include $PDK_ROOT/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice
.global sub!
.include ../sim/netlist/rosc_vco.spice

Vdd   vdd   0 1.2
Vss   vss   0 0
Vsub  sub!  0 0
Vctrl vctrl 0 0.6
.ic v(n1)=0

* The tuning curve is measured over four whole periods (rise 3 to rise 7), so the
* transient has to be long enough to CONTAIN four periods at the control voltage being
* swept -- and the ring is slowest at the bottom of the range. A flat 600 ns window made
* the 0.40 V point report "out of interval": the ring was oscillating with a full 1.23 V
* swing, the window simply did not hold enough edges. The window is per-point for that
* reason; it is a property of the measurement, not of the circuit.
*
* Below the start-up threshold a ring genuinely does not oscillate, and that threshold is
* a RESULT -- it sets the bottom of the usable tuning range. Swing is measured first
* because MAX/MIN always succeed, and the period is attempted only where there is an
* oscillation to measure. A bare `failed!` then means a bug, never physics.
.control
  alter Vctrl dc = 0.4
  tran 20p 4u uic
  echo "VCTRL 0.40"
  meas tran vhi MAX v(n1) FROM=500n TO=4u
  meas tran vlo MIN v(n1) FROM=500n TO=4u
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 0.40 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 0.5
  tran 20p 2u uic
  echo "VCTRL 0.50"
  meas tran vhi MAX v(n1) FROM=300n TO=2u
  meas tran vlo MIN v(n1) FROM=300n TO=2u
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 0.50 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 0.6
  tran 20p 600n uic
  echo "VCTRL 0.60"
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 0.60 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 0.7
  tran 20p 600n uic
  echo "VCTRL 0.70"
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 0.70 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 0.8
  tran 20p 600n uic
  echo "VCTRL 0.80"
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 0.80 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 0.9
  tran 20p 600n uic
  echo "VCTRL 0.90"
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 0.90 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 1.0
  tran 20p 600n uic
  echo "VCTRL 1.00"
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 1.00 NO-OSCILLATION swing=$&sw"
  end
  alter Vctrl dc = 1.1
  tran 20p 600n uic
  echo "VCTRL 1.10"
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  let sw = vhi - vlo
  if sw > 0.4
    meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  else
    echo "VCTRL 1.10 NO-OSCILLATION swing=$&sw"
  end
.endc
.end
